US07253286B2
N-(4-(6-Cyano-7-methoxy-4-quinolyl)oxyphenyl)-N′-phenyl urea
4-(4-Aminophenoxy)-6-cyano-7-methoxyquinoline (148 mg) was added to 5.5 ml of toluene, and the mixture was heated to reflux. After then adding phenyl isocyanate (0.08 ml), the mixture was further heated to reflux for 1 hour. After cooling, the precipitated solid was filtered out and washed with ethyl acetate/toluene=1/1 to obtain 150 mg of the title compound as light brown crystals.

reactant | 4-(4-Aminophenoxy)-6-cyano-7-methoxyquinoline | 148 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OC)C=C1 | C17H13N3O2
reactant | phenyl isocyanate | 0.08 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 5.5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-(6-Cyano-7-methoxy-4-quinolyl)oxyphenyl)-N′-phenyl urea | 150 mg | C(#N)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H18N4O3
